US05721256
3-(3-Pyridyl)-1-propyl N-(tert-butyloxy-carbonyl)pyrrolidine-2-carboxylate
A mixture of N-(tert-butyloxycarbonyl)-(S)-proline (6.0 g; 28 mmol); 3-(3-pyridyl)-1-propanol (5.80 g; 41.8 mmol), dicyclohexylcarbodiimide (9.20 g; 44.48 mmol), camphorsulfonic acid (21.60 g; 9.26 mmol) and 4-dimethylaminopyridine (1.12 g; 9.26 mmol) in dry methylene chloride (200 mL) was stirred overnight. The reaction mixture was filtered through Celite, concentrated, and purified on a silica gel column eluting with 40% ethyl acetate in hexane to obtain 5.0 g of the product as a clear oil (53%), 1H NMR (300 MHz, CDCl3): δ1.42 (s, 9H); 1.43-1.95 (m, 6H); 2.68 (m, 2H); 3.46-3.52 (m, 2H); 4.11-4.22 (m, 2H); 4.33 (m, 1H); 7.17 -7.24 (m, 1H); 7.47 (m, 1H); 8.43 (s, 2H).

reactant | N-(tert-butyloxycarbonyl)-(S)-proline | 28 mmol, 6.0 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 3-(3-pyridyl)-1-propanol | 41.8 mmol, 5.80 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | dicyclohexylcarbodiimide | 44.48 mmol, 9.20 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | camphorsulfonic acid | 9.26 mmol, 21.60 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
catalyst | 4-dimethylaminopyridine | 9.26 mmol, 1.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Pyridyl)-1-propyl N-(tert-butyloxy-carbonyl)pyrrolidine-2-carboxylate | 5.0 g, 53% | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCCCC=1C=NC=CC1 | C18H26N2O4
